US05571775
27. Preparation of 8-Amino-2-benzylthio-5-bromo[1,2,4]triazolo[1,5-a]pyridine
8-Amino-2-benzylthio[1,2,4]triazolo[1,5-a]pyridine (25.6 g, 0.1 mol), N-bromosuccinimide (17.8 g, 0.1 mol) and 2 L of dichloromethane were combined with stirring for an hour. The solution was washed with dilute aqueous sodium bisulfite and then with water and the volatiles were removed by evaporation under reduced pressure. The residue obtained was chromatographed on silica gel eluting with 25 percent ethyl acetate in hexane. The product fractions were concentrated by evaporation under reduced pressure and the solid residue obtained was extracted with ether and dried to obtain 17.5 g (52 percent of theory) of the title compound as a light tan powder melting at 125°-126° C.

reactant | 8-Amino-2-benzylthio[1,2,4]triazolo[1,5-a]pyridine | 0.1 mol, 25.6 g | NC=1C=2N(C=CC1)N=C(N2)SCC2=CC=CC=C2 | C13H12N4S
reactant | N-bromosuccinimide | 0.1 mol, 17.8 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | dichloromethane | 2 L | ClCCl | CH2Cl2
product | 8-Amino-2-benzylthio-5-bromo[1,2,4]triazolo[1,5-a]pyridine | NC=1C=2N(C(=CC1)Br)N=C(N2)SCC2=CC=CC=C2 | C13H11BrN4S
